US07834063B2
A. 4-((Cyclopropylmethyl){2-[(4-formylphenyl)oxy]ethyl}amino)-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(cyclopropylmethyl)(2-hydroxyethyl)amino]-2-(trifluoromethyl)benzonitrile and 4-hydroxybenzaldehyde, then used directly for the step below, step B.

reactant | 4-[(cyclopropylmethyl)(2-hydroxyethyl)amino]-2-(trifluoromethyl)benzonitrile | C1(CC1)CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCO | C14H15F3N2O
reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
product | 4-((Cyclopropylmethyl){2-[(4-formylphenyl)oxy]ethyl}amino)-2-(trifluoromethyl)benzonitrile | C1(CC1)CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCOC1=CC=C(C=C1)C=O | C21H19F3N2O2
